US08859553B2
Step 4. 2-(3-Iodo-4-methylphenyl)-6-(4-methyl-1H-imidazol-1-yl)-1H-benzo[d]imidazole
A solution of N-(2-amino-4-(4-methyl-1H-imidazol-1-yl)phenyl)-3-iodo-4-methylbenzamide (0.16 g, 0.37 mmol) in 5 mL glacial acetic acid was refluxed for 8 hrs, and then the mixture was evaporated in vacuo, the residue was purified by chromatography on silica gel (CH2Cl2/CH3OH 97:3 to 94:6) to give 0.1 g product as pale yellow solid (65.3%). LC/MS: m/z [M+H]+ 415.0415.

reactant | N-(2-amino-4-(4-methyl-1H-imidazol-1-yl)phenyl)-3-iodo-4-methylbenzamide | 0.37 mmol, 0.16 g | NC1=C(C=CC(=C1)N1C=NC(=C1)C)NC(C1=CC(=C(C=C1)C)I)=O | C18H17IN4O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-(3-Iodo-4-methylphenyl)-6-(4-methyl-1H-imidazol-1-yl)-1H-benzo[d]imidazole | 0.1 g, 65.3% | IC=1C=C(C=CC1C)C1=NC2=C(N1)C=C(C=C2)N2C=NC(=C2)C | C18H15IN4
